US05116862
Thioglycollic acid (6.0 g) was added to a stirred solution of sodium hydroxide (8.0 g) in ethanol (50 ml). But-3-ynyl methanesulphonate (7.4 g) was added and the mixture was stirred at 20° for 24 hours. The reaction mixture was poured into water and the aqueous mixture was extracted with diethyl ether. The aqueous alkaline extracts were acidified with hydrochloric acid and the mixture was extracted with diethyl ether. The ethereal extracts were dried over anhydrous magnesium sulphate and evaporated in vacuo. The resulting oil was stirred in dry dimethylformamide (100 ml) and anhydrous sodium carbonate (15 g) was added. Methyl iodide (7.0 ml) was added and the reaction mixture was stirred at 20° for 3 days. Water was added and the aqueous mixture was extracted with diethyl ether. The ethereal extracts were washed with water and dried over anhydrous magnesium sulphate. The solvent was removed in vacuo and the residue was chromatographed on silica, eluting with 1:4 diethylether:hexane. Methyl 2-(but-3-ynylthio)acetate was obtained as a colourless oil (1.2 g) (a small amount of methyl 2-(but-3-yn-1-ylthio)propionate was present). A mixture of methyl 2-(but-3-ynylthio)acetate (0.6 g) and sodium hydroxide solution (20 ml, 2N, 1:1 methanol:water) was stirred for 24 hours at 20°. Water was added and the aqueous mixture was extracted with diethyl ether. The aqueous alkaline extracts were acidified with hydrochloric acid and the mixture was extracted with diethyl ether. The ethereal extracts were dried over anhydrous magnesium sulphate and the solvent was removed in vacuo. 2-(But-3-ynylthio)acetic acid was obtained as a colourless oil (0.5 g). (A small amount of 2-(but-3-ynylthio)propionic acid was present.

reactant | Thioglycollic acid | 6.0 g | C(C(=O)O)S | C2H4O2S
reactant | sodium hydroxide | 8.0 g | [OH-].[Na+]
reactant | But-3-ynyl methanesulphonate | 7.4 g | CS(=O)(=O)OCCC#C | C5H8O3S
reactant | water | O | H2O
reactant | ethanol | 50 ml | C(C)O | C2H6O
product | Methyl 2-(but-3-ynylthio)acetate | C(CC#C)SCC(=O)OC | C7H10O2S
